Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Amoxicillin
 
Attending: ___
 
Chief Complaint:
episode  of transient horizontal double vision, unsteadiness, 
and headache.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old left-handed man with
insulin-dependent type 2 diabetes mellitus, OSA not on CPAP
presenting with transient diplopia, gait instability, and
persistent headache. Last night, he was feeling in his usual 
state of health.
Recently, he has been feeling some exhaustion in the mornings. 

This morning, around 6:15 am, he had double vision when he woke
up. There was a clock projected on his ceiling which looked 
double 
and he couldn't read the time. Numbers were all
overlapping. He looked at his phone and everything was double 
too. He
couldn't make the diplopia go away. He thought it was just cause
he just woke up, but it continued for at least 20 minutes. He
tried closing one eye and then other, which led to no double
vision with only one eye open. It was described horizontal
binocular diplopia. He's not sure whether it was better or worse
close-up or far away. He was able to see large objects ok. This
has never happened before. It persisted when he sat up. He tried
to get rid of it by focusing on things. After about 20 minutes,
it resolved. 

Once it was gone, he got up. Then, he noticed he had balance
difficulties but had no dizziness or vertigo. He stumbled
backwards a little then to the right. No fall or head strike
since he grabbed onto the wall. 

Before 7 am, headache started gradually, not thunderclap and
sudden onset. Later around 8 am, it was unilateral and felt like
someone is pulling on his scalp. It was mostly in the R
frontal/temporal area but  now also in L parietal with scalp
tightness. His entire scalp feels tightness as if someone were
pulling his hair. He also endorses R retro-orbital pressure. He
had a couple short episodes of nausea, but he attributed it to
Trulicity side effect or hunger. 

He was able to have a bagel for breakfast. He was able to cut it
and spread cream on it. No dysphagia/choking/coughing when
eating/drinking. 

No tingling or numbness. L leg felt weak. It has felt sore in 
the
L hip and upper thigh soreness and weak for about a month. He
also does say he has had a few instances of feeling as though 
his
left leg was giving out as he walks and has noted some left hip
pain.

He went to PCP office, where another doctor (___)
sent him to ED. 

Headaches in the past: Usually, unilateral the right more often
than the left. It feels like a constant "drill" in the head. 
Few months ago, he had a severe right-sided headache. He had
severe dizziness with both lightheadedness and vertigo with
"everything rocking." 

Word-finding difficulty for last 3 weeks: 
Used to speak very well. He thinks his pronunciation is
fine/denies dyarthria. It takes him a second or two to find the
right word to say. He has noticed it and his sister has as well.
His sister mentioned it and said "are you ok?" "you're not
speaking right". He looked like he was struggling with what he
needed to say. She had thought he should go see a doctor about
it. 

He has had shortness of breath but not acutely and has been 
going
on for quite some time. He attributes to his weight. For past 
few
weeks, he feels more winded and exhausted. The other day, he
couldn't walk the length of the mall. He usually sleeps on his
left due to OSA. No orthopnea.  

ROS: 
On neurological review of systems, the patient denies confusion,
difficulties comprehending speech, loss of vision, blurred
vision, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus
or hearing difficulty. Denies numbness, parasthesiae. No bowel 
or
bladder incontinence or retention. 
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies vomiting, diarrhea, constipation or abdominal pain. 
Denies dysuria, or recent change in bowel or bladder habits. 
Denies myalgias, or rash.

Patient clarified parts of his history as: 
Reports waking up with double vision on projection clock far 
away
and near by. He reports when closing eye, the double vision went
away. Doesn't remember having a hard time grasping the item. 
Felt like a rocking sensation, not a spinning sensation.  Was
able to sit without feeling like a tipping sensation. 
Stumbled after getting up and felt like he was falling backwards
and then stumbled to the right, caught himself, this happened
once. Drove to his doctor. Then drove to train, took the train 
to an
___ to get to hospital. Had headaches and felt like scalp felt 
like shrink wrap on head,which started when waking up in the 
morning. (In the past had
headaches on one side of head, and a couple months ago had
another headaches that almost fell, but went away).
Reports headaches is ongoing.  
 
Past Medical History:
DIABETES TYPE II                                      ___      
2 lumps in neck - had ultrasound => 2 subcentimeter thyroid
nodules. U/S ___
COLONIC POLYPS                                                  
OSA - not using CPAP
Detached R retina s/p surgical repair ___ - woke up in morning
with severe flashing lights and lots of floaters. Small part of
vision is blocked still on R side. 
========
Surgical History:
L KNEE SURGERY                                                   

torn meniscus  
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living       ___ uterine cancer? needed radiation     


Father                COLON CANCER and Bladder cancer            


Father had stroke in ___ and a couple heart attacks in ___.
Maternal grandmother - skin cancer - melanoma
 
Physical Exam:
Physical exam on admission:
PHYSICAL EXAMINATION: 
Vitals: T:97.6   HR:97   BP:133/76   RR:17   SaO2:97% RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented self, ___ ED, ___. Able 
to
relate history without difficulty. Attentive, able to name ___
backward though a little slow. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. Sometimes would need to pause for word-finding to be
able to express himself. Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves: 
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI; R beating
nystagmus 5 beats on R lateral endgaze. L horizontal diplopia on
L lateral endgaze. Normal saccades. VFF to confrontation.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.  R 
appears
slightly weaker on tongue in cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5-   5    5-  5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5
 L hemibody decreased to pinprick 80% compared to R. Not
splitting midline. 
-Sensory:  L hemibody decreased to pinprick ~80% compared to R.
No deficits to light touch,  proprioception throughout. No
extinction to DSS. Romberg+ swaying backwards.
Decreased vibratory sense b/l feet up to knees. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was equivocal bilaterally.

-Coordination: No intention tremor. L hand subtly clumsier on
finger tapping, slower sequential finger tapping as well. Pt
left-handed. Dysmetria on LUE on FNF a couple times. HKS more
difficult/effortful to perform with L leg, but not clearly
dysmetric. 

-Gait: Good initiation. Slightly wide-based, normal stride and
arm swing.  Unsteady tandem gait. 

==============
Physical Exam at discharge:

24 HR Data (last updated ___ @ 430)
    Temp: 97.6 (Tm 98.0), BP: 127/72 (111-128/72-76), HR: 90
(90-94), RR: 20, O2 sat: 96% (95-96), O2 delivery: 2L, Wt: 302
lb/136.99 kg  

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented self, ___ ED, ___. Able 
to
relate history without difficulty. Attentive, able to name ___
backward though a little slow. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. Sometimes would need to pause for word-finding to be
able to express himself. Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves: 
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI; Smooth pursuit
and saccades, no hypo-or-hypermedia.  Normal saccades. VFF to
confrontation and finger counting.  Reports double vision of
items out of focus bilaterally. Reports double vision side by
side on L gaze. When covering R eye L image disappears and visa
versa. No double vision on right gaze. When looking up,
horizontal vision double, with covering L eye right disappears
and visa versa. Looking down and straight in midline without
double vision.  Double vision is worse on most lateral L gaze.
When looking up to the right same pattern of double vision.  

Concerning for bilateral medial rictus. 

  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.  R 
appears
slightly weaker on tongue in cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5-   5    4+  5    5    5
R    5    5    5    5    5    5   5-   5    4+  5    5    5
 L hemibody decreased to pinprick 80% compared to R. Not
splitting midline. 
-Sensory: No deficits to light touch,  proprioception 
throughout. No extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was down of right and mute on left. 

-Coordination: No intention tremor. L hand subtly clumsier on
finger tapping, slower sequential finger tapping as well. Pt
left-handed. Dysmetria on LUE on FNF a couple times. HKS more
difficult/effortful to perform with L leg, but not clearly
dysmetric. 

Right hand slower than left arm movements. (Reports being L 
handed) L leg dysmetria. 

-Gait: Good initiation. Slightly wide-based, normal stride and 
arm swing.  Unsteady tandem gait. 

 
Pertinent Results:
___ 02:51PM BLOOD WBC-10.9* RBC-4.78 Hgb-13.6* Hct-43.4 
MCV-91 MCH-28.5 MCHC-31.3* RDW-14.1 RDWSD-47.4* Plt ___
___ 06:45AM BLOOD WBC-8.9 RBC-4.49* Hgb-12.9* Hct-41.2 
MCV-92 MCH-28.7 MCHC-31.3* RDW-14.3 RDWSD-48.0* Plt ___
___ 02:51PM BLOOD Neuts-52.9 ___ Monos-8.3 Eos-2.5 
Baso-0.7 Im ___ AbsNeut-5.77 AbsLymp-3.78* AbsMono-0.90* 
AbsEos-0.27 AbsBaso-0.08
___ 02:51PM BLOOD ___ PTT-32.2 ___
___ 06:45AM BLOOD Glucose-116* UreaN-13 Creat-1.0 Na-139 
K-5.1 Cl-97 HCO3-28 AnGap-14
___ 02:51PM BLOOD Glucose-81 UreaN-13 Creat-1.0 Na-140 
K-4.6 Cl-97 HCO3-25 AnGap-18
___ 06:45AM BLOOD ALT-60* AST-51* AlkPhos-70 TotBili-0.5
___ 02:51PM BLOOD ALT-63* AST-52* AlkPhos-74 TotBili-0.3
___ 02:51PM BLOOD Lipase-20
___ 02:51PM BLOOD cTropnT-<0.01
___ 06:45AM BLOOD Calcium-9.1 Phos-4.9* Mg-2.2 Cholest-176
___ 06:45AM BLOOD %HbA1c-7.3* eAG-163*
___ 06:45AM BLOOD Triglyc-182* HDL-39* CHOL/HD-4.5 
LDLcalc-101
___ 06:45AM BLOOD TSH-5.3*
___ 02:51PM BLOOD CRP-12.1*
___ 02:51PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:51PM BLOOD HoldBLu-HOLD
___ 02:51PM BLOOD GreenHd-HOLD

=============
ECHO
CONCLUSION:
The left atrial volume index is normal. No thrombus/mass is seen 
in the body of the left atrium (best
excluded by TEE). There is no evidence of an atrial septal 
defect or patent foramen ovale by 2D/color
Doppler or agitated saline at rest and with maneuvers. The 
inferior vena cava diameter is normal. There
is normal left ventricular wall thickness with a normal cavity 
size. There is suboptimal image quality to
assess regional left ventricular function. Overall left 
ventricular systolic function is normal. The visually
estimated left ventricular ejection fraction is 70%. Left 
ventricular cardiac index is low normal
(2.0-2.5 L/min/m2). There is no resting left ventricular outflow 
tract gradient. The right ventricle was
not well seen with normal free wall motion. The aortic sinus 
diameter is normal for gender with a
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal
descending aorta diameter. There is no evidence for an aortic 
arch coarctation. The aortic valve leaflets
(?#) are mildly thickened. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral
regurgitation. The pulmonic valve leaflets are not well seen. 
The tricuspid valve is not well seen. There
is physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated.
There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. Normal left ventricular 
wall thickness and
biventricular cavity sizes and global biventricular systolic 
function. Poor quality images, but no
bubbles seen in the left heart at rest or with cough. Valvsalva 
images were non diagnostic. No LV
thrombus. No ___. No prior study available for comparison.

================
MRI BRAIN:
Diffusion-weighted images are degraded by artifacts above the 
level of the
lateral ventricles.  No acute infarction is seen below this 
level.
 
Gradient echo images and sagittal T1 weighted images are also 
limited by
motion artifacts.  No evidence for edema, mass effect, or 
intracranial blood
products.  Small T2/FLAIR hyperintense foci in the 
periventricular, deep, and
subcortical white matter of the cerebral hemispheres, mildly to 
moderately
numerous, are nonspecific but likely sequela of chronic small 
vessel ischemic
disease in this age group.  There is mild global parenchymal 
volume loss with
mildly prominent ventricles and sulci.  Major vascular flow 
voids are grossly
preserved.
 
There is trace opacification of dependent left mastoid air 
cells.  There is
minimal mucosal thickening in the anterior ethmoid air cells and
frontoethmoidal recesses.
 
MRA NECK:
Motion artifact limits evaluation.   There is conventional 3 
vessel branching
of the aortic arch. There also more focal artifacts through the 
vertebral
artery origins and proximal V1 segments, with poor evaluation.  
V2 through V4
segments of the dominant right vertebral artery appear widely 
patent.  Left V2
segment is widely patent.  Left V3 and V4 segments are patent 
with apparent
mild luminal irregularity which is likely an artifact of non 
dominant status,
since only a tiny focus of calcified plaque in the distal V3 
segment is seen
on the preceding CTA without flow-limiting stenosis.
 
Visualization of the proximal common carotid arteries is also 
limited.  Distal
common carotid arteries and the cervical internal carotid 
arteries appear
patent without evidence for stenosis by NASCET criteria.
 
MRA CIRCLE OF ___:
The intracranial vertebral and internal carotid arteries and 
their major
branches appear patent without evidence for flow-limiting 
stenosis or
aneurysm.
 
IMPRESSION:
 
 
1. Diffusion-weighted images are degraded by artifact above the 
level of the
lateral ventricles.  No acute infarction is seen below this 
level.
2. Mildly to moderately numerous T2/FLAIR hyperintensities in 
the
supratentorial white matter are nonspecific but likely sequela 
of chronic
small vessel ischemic disease in this age group.
3. Neck MRA with technically inadequate evaluation of bilateral 
vertebral
artery origins and proximal V1 segments.  Remaining right 
vertebral artery is
widely patent.  Minimal atherosclerosis of the left V3 segment 
without
flow-limiting stenosis.
4. No evidence for carotid stenosis by NASCET criteria.
5. Unremarkable MRA of the ___.

--------------
XAMINATION:  CTA HEAD WANDW/O C AND RECONSQ1213CTHEAD
 
INDICATION:  History: ___ with transient diplopia and gait 
instability. 
Headache today.  Word finding difficulties for 3 weeks, worse 
today.
 
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain
without contrast material.  Next, rapid axial imaging was 
performed through
the brain during the uneventful infusion of Omnipaque 
intravenous contrast
material. Three-dimensional angiographic volume rendered and 
segmented images
were then generated on a dedicated workstation. This report is 
based on
interpretation of all of these images.
 
DOSE:  Acquisition sequence:
   1) Sequenced Acquisition 18.0 s, 18.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP =
903.1 mGy-cm.
   2) Stationary Acquisition 0.5 s, 0.5 cm; CTDIvol = 10.9 mGy 
(Head) DLP =
5.4 mGy-cm.
   3) Stationary Acquisition 4.0 s, 0.5 cm; CTDIvol = 87.1 mGy 
(Head) DLP =
43.6 mGy-cm.
   4) Spiral Acquisition 2.8 s, 22.2 cm; CTDIvol = 30.2 mGy 
(Head) DLP = 671.9
mGy-cm.
 Total DLP (Head) = 1,624 mGy-cm.
 
COMPARISON:  CTA head and neck from ___.
 
FINDINGS: 
 
CT HEAD WITHOUT CONTRAST:
No evidence for acute intracranial hemorrhage, edema, mass 
effect, or acute
major vascular territorial infarction.  Periventricular and 
subcortical white
matter hypodensities are nonspecific but likely sequela of 
chronic small
vessel ischemic disease in this age group, not significantly 
changed compared
to the ___ CTA.  There is mild global parenchymal 
volume loss with
mild prominence of the sulci and minimal prominence of the 
ventricles.  The
basal cisterns are preserved.
 
There is minimal mucosal thickening in the anterior ethmoid air 
cells and the
frontoethmoidal recesses.  The orbits appear unremarkable.
 
CTA HEAD:
There is mild calcified plaque within bilateral carotid siphons 
without
evidence for flow-limiting stenosis.  No evidence for 
flow-limiting stenosis
elsewhere in the major intracranial arteries.  No evidence for 
an aneurysm.
 
IMPRESSION:
 
 
1. No evidence for acute intracranial abnormalities.  MRI would 
be more
sensitive for an acute infarction, if clinically warranted.
2. Unremarkable head CTA.

 
Brief Hospital Course:
Ms. ___ is a ___ YO M with PMH of Obesity, Type II DM on 
Insulin, OSA (not on bipap) who is admitted to the Neurology 
stroke service with transient binocular double vision on primary 
gaze and headache with reported gait instability that resolved, 
physical exam was non-specific with findings of pure horizontal 
double vision with upgaze and extreme gaze to the left. These 
symptoms were concerning for acute stroke vs TIA vs complex 
migraine. The localization is to brain stem. MRI negative for 
stroke, minimal micro-vascular changes on Flair and GRE without 
notable microbleeds, though significant motion artifact on 
dorsal side of head, but not in expected territory of infarct. 
CTA also with significant motion artifact, but
without significant vascular disease noted or obvious 
dissection. His symptoms are likely secondary to TIA, given risk 
factors and lack of stroke on MRI. His diplopia with primary 
gaze is resolved, and his double vision with extreme up-gaze and 
Left Lateral Gaze still will require further workup as an 
outpatient with neuroopthamology. For his TIA we are starting 
him on aspirin 81mg for primary stroke prevention and 
atorvastatin 40 mg daily for hyperlipidemia.
-We obtained an ECHO which the results are pending.
-We will send him with a Zio-Patch.

His deficits improved greatly prior to discharge and the only 
notable weakness was in the bilateral lower extremities in the 
hamstings and some L leg giveway from pain, and double vision 
when looking to far left and upward.

History difficult to localize due to sensory changes 
inconsistent with expected lesion.
Workup negative for an acute stroke. Etiology of diplopia 
unclear from history and imaging. The nature of diplopia not 
concerning for retinal detachment given time course and 
bilateral nature. Physical exam is non-specific. With double 
vision on L gaze and upward gaze, without abnormal eye 
movements. Concern for TIA still a likely etiology. The symmetry 
of reflexes make a spinal etiology less likely. On the 
differential a complex migraine sill exist.

Her stroke risk factors include the following:
1) DM: A1c 7.3%
2) Hyperlipidemia: starting on Atorvastatin 40mg daily with LDL 
101
3) Obesity
4) History of Sleep apnea

=================
Transitional Issues:
-Zio-Patch 4 weeks.
- PCP to follow up with phosphorus,
- PCP to follow up with Lipids, starting on Atovastatin 40mg.
- Patient to follow up with neuro-Opthamology withing ___ weeks.
- Patient to follow up with stroke neurology in 3 months.
- PCP to ___ up TSH.
- PCP to follow up non-specific ECHO results.

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 101) - () No
5. Intensive statin therapy administered? atorvastatin 40mg (x) 
Yes -
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
=========================
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
lantus 30 Units Bedtime
3. Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous as 
previously Rx 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*90 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO ONCE Duration: 1 Dose 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3 
3.  Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
lantus 30 Units Bedtime 
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous as 
previously Rx  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack versus complex migraine 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You presented to the hospital because you experienced an episode 
of transient horizontal double vision, unsteadiness, and 
headache.  Thankfully, these symptoms have resolved and you are 
back to your baseline.  We have performed an MRI of your brain 
and it did not reveal a stroke or other lesion that could 
explain your symptoms.  We, ultimately, are uncertain what 
caused you to have your symptoms, but our concern is either that 
you had a transient ischemic attack or a complex headache.  We 
are concerned that you have numerous risk factors for stroke so 
will treat this as a transient ischemic attack to be safe.  We 
will start you on aspirin 81 mg daily and atorvastatin 40 mg 
daily.  

A transient ischemic attack is an event where a blood vessel 
providing oxygen and nutrients to the brain is temporarily 
blocked by a clot.  A TIA is also known as a warning stroke, 
alarming an individual to take action to prevent an actual 
stroke.  The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  Stroke can have many different causes, so we 
assessed you for medical conditions that might raise your risk 
of having stroke. In order to prevent future strokes, we plan to 
modify those risk factors. Your risk factors are:
- Hyperlipidemia, 
- Obesity,
- Diabetes, 
- Obstructive Sleep Apnea (OSA)

We are changing your medications as follows:
- We are adding aspirin 81mg daily. 
- We are adding atorvastatin 40mg daily 
- Please take your other medications as prescribed.

We will have you follow up in neurology and ___ 
clinic and will be contacting you in the next few days to 
schedule these appointments.  Please follow up with your primary 
physician in the next week to discuss that there was concern 
that you had a transient ischemic attack and that you were told 
that you need to work on management of obesity, diabetes, high 
cholesterol, and obstructive sleep apnea. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___